US08236826B2
Production of 3,4-dichloro-N-{6-[4-(5-hydroxypentyl)-phenoxy]pyridin-3-yl}benzamide
To a solution of ethyl 5-{4-[5-(3,4-dichloro-benzoylamino)pyridin-2-yloxy]phenyl}pentanoate (8.79 g, 18.0 mmol) in THF (140 mL) was added sodium borohydride (3.14 g, 144 mmol), and the resulting solution was refluxed for 3 hours under a nitrogen atmosphere. The resulting reaction solution was cooled with ice, and treated with 1 N hydrochloric acid. The resulting solution was extracted with ethyl acetate. The ethyl acetate layer was washed with a saturated sodium bicarbonate solution and brine. The ethyl acetate layer was dried over anhydrous magnesium sulfate, and evaporated. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=1:2), to thereby yield 7.07 g of the title compound.

reactant | ethyl 5-{4-[5-(3,4-dichloro-benzoylamino)pyridin-2-yloxy]phenyl}pentanoate | 18.0 mmol, 8.79 g | ClC=1C=C(C(=O)NC=2C=CC(=NC2)OC2=CC=C(C=C2)CCCCC(=O)OCC)C=CC1Cl | C25H24Cl2N2O4
reactant | sodium borohydride | 144 mmol, 3.14 g | [BH4-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | THF | 140 mL | C1CCOC1 | C4H8O
product | 3,4-dichloro-N-{6-[4-(5-hydroxypentyl)-phenoxy]pyridin-3-yl}benzamide | ClC=1C=C(C(=O)NC=2C=NC(=CC2)OC2=CC=C(C=C2)CCCCCO)C=CC1Cl | C23H22Cl2N2O3
